US07781478B2
To a mixture of 1-Boc-6-trifluoromethoxyindole-2-boronic acid prepared above (0.74 g, 2.1 mmol), 2-(4-iodophenyl)isothiazolidine-1,1-dioxide (0.76 g, 2.4 mmol), and PdCl2(dppf) (0.08 g, 0.1 mmol) in DMF (6.0 mL), is added K2CO3 solution (3.2 mL, 2.0 M, 6.4 mmol). The mixture is stirred at room temperature overnight and then poured into ice-water (100 mL). The precipitate is collected and washed with water and purified by flash column chromatography (silica gel, DCM/EtOAc, 9/1) to furnish 1-Boc-2-[4-(1,1-dioxidoisothiazolidin-2-yl)phenyl]-6-methoxyindole, which is treated with 50% TFA in DCM (15 mL) at room temperature for 1 h. After the removal of the volatiles, the residue is carefully stirred with saturated NaHCO3 for 0.5 h. The precipitate is collected via filtration and washed thoroughly with water and dried to provide essentially pure 1-H-2-[4-(1,1-dioxidoisothiazolidin-2-yl)phenyl]-6-trifluoromethoxyindole.

reactant | 1-Boc-6-trifluoromethoxyindole-2-boronic acid | C(=O)(OC(C)(C)C)N1C(=CC2=CC=C(C=C12)OC(F)(F)F)B(O)O | C14H15BF3NO5
reactant | 2-(4-iodophenyl)isothiazolidine-1,1-dioxide | 2.4 mmol, 0.76 g | IC1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H10INO2S
reactant | K2CO3 | 6.4 mmol, 2.0 M, 3.2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.1 mmol, 0.08 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Boc-2-[4-(1,1-dioxidoisothiazolidin-2-yl)phenyl]-6-methoxyindole | C(=O)(OC(C)(C)C)N1C(=CC2=CC=C(C=C12)OC)C1=CC=C(C=C1)N1S(CCC1)(=O)=O | C23H26N2O5S
